data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4146,4748,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[CH-:11][N+:12]([CH3:13])=[C:14]([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:14]([C:15]#[N:16])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[N:12]([CH3:13])[CH:11]1[C:9]([NH:8][CH3:7])=[O:10],water,298.15,16.151106481629768,-21.485510584089592
3166,3573,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C:6](=[O:7])[CH-:8][O+:9]=[CH:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[CH:8]([C:6]([CH3:5])=[O:7])[O:9][CH:10]1[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1,water,298.15,11.975605302779169,-42.39579885962848
4705,5363,[CH3:10][O:11][C:12](=[O:13])[C:14](=[O+:15][CH-:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23]([CH3:24])=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([C:23]([CH3:24])=[O:25])[O:15][CH:16]1[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,14.634165246170076,-29.08485617630712
47,56,[CH2-:12][N+:13]#[C:14][CH3:15].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[CH2:12][N:13]=[C:14]2[CH3:15],water,298.15,7.586041208705088,-58.62051556768857
1073,1170,[CH3:13][O:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([CH3:20])[C:21]([CH3:22])=[O:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:19]([CH3:20])([C:21]([CH3:22])=[O:23])[N:18]=[C:17]2[C:15]([O:14][CH3:13])=[O:16],water,298.15,15.976950313147311,-35.105186378874485
1376,1513,[CH3:14][O:15][C:16](=[O:17])[C:18]([C:19]#[N:20])=[N+:21]([CH3:22])[N-:23][C:24]([CH3:25])=[O:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[N:23]([C:24]([CH3:25])=[O:26])[N:21]([CH3:22])[C:18]2([C:16]([O:15][CH3:14])=[O:17])[C:19]#[N:20],water,298.15,15.494048603423073,-19.60293025463326
3905,4466,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][N-:16][O+:17]=[C:18]([CH3:19])[CH3:20]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:16]([CH3:15])[O:17][C:18]2([CH3:19])[CH3:20],water,298.15,8.747508521894726,-32.861300774522235
4853,5535,[CH3:10][NH:11][C:12](=[O:13])[C:14]([CH3:15])=[O+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:17]([C:18](=[O:19])[NH:20][CH3:21])([C:22](=[O:23])[NH:24][CH3:25])[O:16][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[CH3:15],water,298.15,10.20725038057605,-45.936799008139296
4336,4957,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]#[N+:20][N-:21][C:22]#[N:23]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:21]([C:22]#[N:23])[N:20]=[C:19]2[C:17]([NH:16][CH3:15])=[O:18],water,298.15,13.093349843053998,-21.03431510098269
790,855,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][Cl:7].[CH3:8][O:9][C:10](=[O:11])[C:12]([CH3:13])=[O+:14][C-:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[C:15]([CH3:16])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[O:14][C:12]1([C:10]([O:9][CH3:8])=[O:11])[CH3:13],water,298.15,12.869847549456836,-78.72591525944372
247,270,[CH3:14][N:15]=[O+:16][N-:17][C:18]#[N:19].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[N:15]([CH3:14])[O:16][N:17]2[C:18]#[N:19],water,298.15,28.610947949401456,-24.10081619385225
4565,5210,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[c-:15]1[c:16](=[O:17])[o:18][c:19]([C:20]([CH3:21])=[O:22])[n+:23]1[CH3:24]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]1([C:13]([O:12][CH3:11])=[O:14])[C:16](=[O:17])[O:18][C:19]2([C:20]([CH3:21])=[O:22])[N:23]1[CH3:24],water,298.15,41.24064534180904,17.344351775701394
2920,3254,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH:5]#[N+:6][CH-:7][C:8](=[O:9])[NH:10][CH3:11]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[CH:7]([C:8](=[O:9])[NH:10][CH3:11])[N:6]=[CH:5]1,water,298.15,19.083298647461355,-46.81634615911558
